US07491720B2
(3) Synthesis of methyl 6-(3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridine-2-carboxylate
To a mixture of 4.85 g (20.6 mmol) of methyl 6-(thiazol-2-ylamino)-pyridine-2-carboxylate, 7.20 ml (41.2 mmol) of N,N-diisopropylethylamine and 100 ml of chloroform was added 2.35 ml (30.9 mmol) of chloromethylmethyl ether followed by stirring at room temperature for 1 hour. The reaction mixture was washed with 100 ml of water for three times and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated to about 20 ml in total and the resulting solid was filtered. The resulting solid was washed with ether and dried in vacuo to give 6.38 g (20.6 mmol) of the title compound as a white solid.

reactant | methyl 6-(thiazol-2-ylamino)-pyridine-2-carboxylate | 20.6 mmol, 4.85 g | S1C(=NC=C1)NC1=CC=CC(=N1)C(=O)OC | C10H9N3O2S
reactant | N,N-diisopropylethylamine | 41.2 mmol, 7.20 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethylmethyl ether | 30.9 mmol, 2.35 ml | ClCOC | C2H5ClO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-(3-methoxymethyl-3H-thiazol-2-ylideneamino)-pyridine-2-carboxylate | 20.6 mmol, 6.38 g | COCN1C(SC=C1)=NC1=CC=CC(=N1)C(=O)OC | C12H13N3O3S
